US07067537B2
i) Production of 3-cyano-N-methylbenzamide
A mixture of 40% aqueous methylamine solution (20 ml) and THF (30 ml) was cooled to 5° C., and 3-cyanobenzoyl chloride (1.89 g) was slowly added. The mixture was stirred for one hr. The reaction mixture was extracted with ethyl acetate, and the organic layer was dried and concentrated. The residue was recrystallized from ethyl acetate to give the title compound (1.14 g) as colorless needle crystals.

reactant | methylamine | 20 ml | CN | CH5N
reactant | 3-cyanobenzoyl chloride | 1.89 g | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-cyano-N-methylbenzamide | 1.14 g | C(#N)C=1C=C(C(=O)NC)C=CC1 | C9H8N2O
